US07678801B2
3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-propylbenzamide
3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (0.04 g, 0.078 mmol), N,N,N′-trimethyl-1,3-propanediamine (0.134 g, 0.115 mmol), and TEA (0.016 g, 0.156 mmol) were combined in CH2Cl2 (5 mL) and stirred under argon at room temperature. The solvents were pumped off in vacuo. The residue was flash chromatographed on silica gel (10 g) eluted with CH2Cl2 to 6:1:0.1, CH2Cl2:ethanol:NH4OH. The compound had an impurity which was removed by filtering through a silica gel plug with 3% MeOH/CH2Cl2 to give the title compound as an off-white amorphous solid. mp 104-109° C. LC-MS m/z 549 (M+H)+, 1.65 min (ret time).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.078 mmol, 0.04 g | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)(=O)C)=O | C25H22F2N4O4S
reactant | N,N,N′-trimethyl-1,3-propanediamine | 0.115 mmol, 0.134 g | CN(CCCNC)C | C6H16N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-4-methyl-N-propylbenzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)N(C)CCCN(C)C)=O | C30H34F2N6O2
